US07626021B2
2-Amino-5-iodobenzoic acid (5.0 g, 19 mmol) was dissolved in dichloromethane (100 mL). O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (7.9 g, 21 mmol) and triethyl amine (2.1 g, 21 mmol) were added with magnetic stirring. After 5 min., dimethyl amine (2 N in THF, 19 mL, 38 mmol) was added and the resulting solution was stirred overnight. The reaction solution was washed with aqueous saturated sodium chloride and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford 2-amino-5-iodo-N,N-dimethyl-benzamide (5.4 g, 98% yield) as yellow solids. MS: m/z 291 (M+H+).

reactant | 2-Amino-5-iodobenzoic acid | 19 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 21 mmol, 7.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethyl amine | 21 mmol, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl amine | 38 mmol, 2 N, 19 mL | CNC | C2H7N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-amino-5-iodo-N,N-dimethyl-benzamide | 5.4 g, 98% yield | NC1=C(C(=O)N(C)C)C=C(C=C1)I | C9H11IN2O
